US07851626B2
4-Chloro-2-ethoxybenzoic acid ethyl ester (˜18 g) was suspended in ethanol (500 mL). This was treated with potassium hydroxide (200 mL, 2 M solution) and refluxed for 1 h. The reaction was cooled and poured into cold aqueous hydrochloric acid (300 mL, 3 M solution) and extracted into dichloromethane (3×500 mL). The dichloromethane was washed with water (500 mL) and dried over magnesium sulfate and evaporated to dryness to give 4-chloro-2-ethoxy-benzoic acid as a solid.

reactant | 4-Chloro-2-ethoxybenzoic acid ethyl ester | ˜18 g | C(C)OC(C1=C(C=C(C=C1)Cl)OCC)=O | C11H13ClO3
reactant | potassium hydroxide | 2 M, 200 mL | [OH-].[K+]
reactant | hydrochloric acid | 3 M, 300 mL | Cl | ClH
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 4-chloro-2-ethoxy-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)OCC | C9H9ClO3
